US07265144B2
Step 3: Preparation of 3-(4-fluoro-2-methylphenyl)-3-oxopropanenitrile
To a suspension of hexane-washed sodium hydride (60% oil dispersion, 995 mg, 24.9 mmol) was added dropwise a THF solution (20 mL) of methyl 4-fluoro-2-methylbenzoate (3.8 g, 22.6 mmol) and anhydrous acetonitrile (2.4 mL, 45.2 mmol). The mixture was stirred at 70° C. for 16 h, and then cooled to rt. The resulting mixture was diluted with ethyl acetate (20 mL) and 1 N HCl (10 mL) and the layers were partitioned. The organic phase was washed with water (3×20 mL) and brine (20 mL), dried (Na2SO4), and concentrated under reduced pressure to afford 4.0 g of yellow oil, which was taken to the next step without further purification. ES-MS m/z 178.2 (MH+); HPLC RT (min) 2.22.

reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 24.9 mmol, 995 mg | [H-].[Na+]
reactant | methyl 4-fluoro-2-methylbenzoate | 22.6 mmol, 3.8 g | FC1=CC(=C(C(=O)OC)C=C1)C | C9H9FO2
reactant | acetonitrile | 45.2 mmol, 2.4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1 N, 10 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-fluoro-2-methylphenyl)-3-oxopropanenitrile | 4.0 g | FC1=CC(=C(C=C1)C(CC#N)=O)C | C10H8FNO
